US05644053
(a) Benzhydryl (E)-(2S,3S,5R)-3-methyl-3-[2-(1,2,4-oxadiazol-3- yl)-vinyl]-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate
1.14 g (3.0 mmol) of benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate were dissolved in 15 ml of 1,2-butylene oxide, treated with 1.38 g (3.6 mmol) of (1,2,4-oxadiazol-3-yl)methyl-triphenylphosphonium chloride and refluxed for 10 hours. Subsequently, the mixture was filtered, the filtrate is evaporated and the residual brown oil was chromatographed over silica gel (0.040-0.063 mm particle size) with methylene chloride as the eluent. Yield: 280 mg (21%) of colorless crystals MS: (M+NH4)+ 465.3 IR (KBr): 1792, 1753, 1658, 1492, 1200, 991 cm-1

reactant | benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | 3.0 mmol, 1.14 g | C(=O)[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H19NO4S
reactant | (1,2,4-oxadiazol-3-yl)methyl-triphenylphosphonium chloride | 3.6 mmol, 1.38 g | [Cl-].O1N=C(N=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,2-butylene oxide | 15 ml | C1C(CC)O1 | C4H8O
product | Benzhydryl (E)-(2S,3S,5R)-3-methyl-3-[2-(1,2,4-oxadiazol-3- yl)-vinyl]-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | C[C@@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C1=NOC=N1 | C24H21N3O4S
